Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
amoxicillin / ACE Inhibitors / Bactrim / nitrofurantoin
 
Attending: ___.
 
Chief Complaint:
10cm postmenopausal ovarian cyst
 
Major Surgical or Invasive Procedure:
Laparoscopic bilateral salpingo-oophorectomy 

 
History of Present Illness:
BP is a lovely ___ who had an ovarian cyst incidentally 
found on CT scan done for recurrent urinary tract infections. At 
that time the cyst was completely asymptomatic and given her age 
as well as multiple medical comorbidities the decision was made 
to perform ultrasound surveillance.  She did have an MRI done in 
___.  This showed an ___ cm cyst arising from likely the left 
ovary.  She then  went on to have pelvic ultrasound.  Over the 
past ___ years this has slowly grown, now measuring 10 x 8.3 x 9.1 
cm.  It was 9.4 x 7.2 x 8.8 cm one year ago, and was 7.9 x 6.2 x 
8.6 cm in ___. In addition, her CA 125 level is slightly 
elevated. 

She complains of being incontinent of stool.  She has mobility 
issues related to spinal stenosis and gets injections which are 
quite helpful.  She is now currently living in a nursing home.  
Her bowel issues have been keeping her there as of late.  
 
Past Medical History:
Oncologic history: 
CT scan incidental left ovarian cyst on 
MRI done in ___: showed a ___ cm cyst arising from likely the 
left ovary.
Pelvic ___ cyst 10 x 8.3 x 9.1 cm.  
Pelvic US: ___ 9.4 x 7.2 x 8.8 cm one year ago
Pelvic US:.9 x 6.2 x 8.6 cm in
___. In addition, her CA 125 level is slightly elevated. Her CA 
125 is 22 U/mL and it was 16 U/mL last year.  
PMH: recurrent UTI, diverticulosis, colonic polyps in ___ & 
___, osteoporosis, HTN, h/o positive PPD, spinal stenosis
PSH: cataracts
ObGyn: 3 spontaneous vaginal deliveries, no complications, 
remote h/o adnexal cyst? no surgery, last Pap ___ normal
All: 
- ACE-I: cough
- amox: hives
- bactrim: nausea
- macrobid: rash

 
Social History:
lives in an assisted living facility- now in a nursing home.
no tobacco use ever, no EtOH or drug use. presents with her 
daughters today.

 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
General: NAD, appears well, elderly woman, mobile
Cardiac: RRR
Pulmonary: lungs CTAB
GU: abd soft, NT, ND, no masses, no scars
pelvic: external anatomy with loss of architecture around labia
minora, no skin changes or lesions.  vaginal mucosa atrophic. 
cervix with moderate descent, no lesions/bleeding, large
cystocele
BME: fixed pelvic mass in posterior mother although pelvis,
___, smooth
walled

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, mildly distended, tympanic, positive bowel sounds,4.5
x 4.5 cm periumbilical bruising, laparoscopic incision sites 
clean, dry, intact with mastisol glue
___: left foot with 2+ edema, left leg with +1 edema. ___.
right lower extremity with +1 edema, ___. 

 
Pertinent Results:
==========================================
LABS ON ADMISSION
==========================================
None

==========================================
IMAGING ON ADMISSION
==========================================
None

==========================================
RELEVANT LABS:
==========================================
___ 07:15AM BLOOD WBC-9.6 RBC-3.87* Hgb-11.9 Hct-35.8
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-85 UreaN-14 Creat-0.5 Na-140 
K-3.9 Cl-101 HCO3-28 AnGap-11
___ 08:00AM URINE WBC Clm-OCC* Mucous-RARE*
___ 08:00AM URINE RBC-11* WBC->182* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 08:00AM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG
___ 08:00AM URINE Color-Straw Appear-Hazy* Sp ___

==========================================
RELEVANT IMAGING:
==========================================
None

==========================================
LABS ON DISCHARGE
==========================================
___ 07:15AM BLOOD WBC-9.6 RBC-3.87* Hgb-11.9 Hct-35.8 
MCV-93 MCH-30.7 MCHC-33.2 RDW-13.2 RDWSD-45.1 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-85 UreaN-14 Creat-0.5 Na-140 
K-3.9 Cl-101 HCO3-28 AnGap-11
___ 07:15AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.8
___ 08:00AM URINE WBC Clm-OCC* Mucous-RARE*
___ 08:00AM URINE RBC-11* WBC->182* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 08:00AM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG
___ 08:00AM URINE Color-Straw Appear-Hazy* Sp ___

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology 
service after undergoing a laparoscopic bilateral 
salpingo-oophorectomy for an ovarian cyst. Please see the 
operative report for full details.  

*)Postoperative: Her post-operative course is detailed as 
follows. Immediately postoperatively, her pain was controlled 
with IV Dilaudid. By post-operative day #1, her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone/acetaminophen/ibuprofen.  

By post-operative day #1, she was tolerating a regular 
diet,ambulating independently, and pain was controlled with oral 
medications. She was then discharged to ___ 
and ___ in stable condition with foley in place and 
outpatient follow-up scheduled.

*)Urinary Tract Infection: On post-operative Day #1, Urine 
analysis was done and urine cultures were sent due to urinary 
retention and concern for urinary tract infection. Her nursing 
home reported that she has received cefpodoxime for her past 
UTIs and responded well to them. She was discharged with a 
prescription for a 7 day course of Cefpodoxime Proxetil as 
treatment with follow up on speciation/susceptibility.

*)Hypertension: controlled by continuing her home atenolol.
 
Medications on Admission:
atenolol 25 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*1 
2.  Cefpodoxime Proxetil 200 mg PO BID UTI 
Please complete your 7 day course of antibiotics.  
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*1 
4.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with food. Do not exceed 2400 mg in a day.  
RX *ibuprofen 400 mg 1 tablet(s) by mouth Q8HR Disp #*40 Tablet 
Refills:*1 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4HR Disp #*20 
Tablet Refills:*0 
6.  Atenolol 25 mg PO DAILY  
7.  Citalopram 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ovarian Cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.    
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

***UTI: You were found to have a UTI at the hospital. Your urine 
was sent to be cultured. You were also given a prescription for 
Vantin antibiotic to treat your UTI. Please take as prescribed. 
If you develop symptoms such as burning with urination, pelvic 
or back pain, please call the doctor's office. 

*** Home with foley: You were discharged back to your nursing 
home with a Foley (bladder) catheter and received teaching for 
it prior to discharge.  Please have your nurse at the home 
remove your foley on ___ and perform a trial of void. If you 
are unable to void after your foley is removed on ___, please 
call the Urology department at ___ for a follow up 
appointment.  

***Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

 
Followup Instructions:
___